US08211907B2
(−)-(4aR*,9bR*)-4a,9b-Dimethyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine and (+)-(4aR*,9bR*)-4a,9b-dimethyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine were each made into a hydrochloride by a conventional method, washed with ethyl acetate, and then collected by filtration to obtain (4aR*,9bR*)-4a,9b-dimethyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine hydrochloride and an enantiomer thereof, respectively, as a colorless powder.

reactant | (−)-(4aR*,9bR*)-4a,9b-Dimethyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine | C[C@@]12[C@@](NCCC1)(C1=CC=CC=C1C2)C | C14H19N
reactant | hydrochloride | Cl | ClH
product | (4aR*,9bR*)-4a,9b-dimethyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine hydrochloride | Cl.C[C@@]12[C@@](NCCC1)(C1=CC=CC=C1C2)C | InChI=1S/C14H19N.ClH/c1-13-8-5-9-15-14(13,2)12-7-4-3-6-11(12)10-13;/h3-4,6-7,15H,5,8-10H2,1-2H3;1H/t13-,14+;/m1./s1
